US03943148
1,2,5,6,11,11b-Hexahydro-8-methoxy-11,11b-dimethyl-3H-indolizino[8,7-b]indol-3-one
Sodium hydride (1.06 g. of about a 50% dispersion in mineral oil) is stirred under nitrogen with 5.41 g. 1,2,5,6,11,11b-hexahydro-8-methoxy-11b-methyl-3H-indolizino[8,7-b]indol-3-one [S. Wawzonek and J. D. Nordstrom, J. Med. Chem., 8, 265 (1965)] in 100 ml. dry dimethylformamide for one-half hour. The brown solution is cooled in an ice-water bath as 3.41 g. methyl iodide (1.50 ml.) is added. After one-half hour of cooling, the reaction mass is allowed to stand at about 25°C. for sixteen hours. The dimethylformamide is removed in vacuo and the residue is twice triturated with 50 ml. hexane, dissolved in chloroform and washed with water. After drying (sodium sulfate), the solvent is removed and the solid is twice recrystallized from ethyl acetate, thus affording 4.30 g. of the title compound, m.p. 164°-7°C.; λmaxCHCl3 6.02, 6.19 μ; NMR (CDCl3); δ 1.60 (singlet, 11b-methyl), 3.68 (singlet, 11-methyl), 3.83 (singlet, methoxyl) ppm.

reactant | Sodium hydride | [H-].[Na+]
reactant | 1,2,5,6,11,11b-hexahydro-8-methoxy-11b-methyl-3H-indolizino[8,7-b]indol-3-one | COC=1C=C2C3=C(NC2=CC1)C1(CCC(N1CC3)=O)C | C16H18N2O2
reactant | methyl iodide | 1.50 ml | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1,2,5,6,11,11b-Hexahydro-8-methoxy-11,11b-dimethyl-3H-indolizino[8,7-b]indol-3-one | COC=1C=C2C3=C(N(C2=CC1)C)C1(CCC(N1CC3)=O)C | C17H20N2O2
